US07902369B2
4-(2-methyl-1-oxo-3,4-dihydroisoquinoline-6-yl-1-(2-fluoropyridine-3-yl)-5-methyl-1H-[1,2,3]triazole
20 mg of palladium carbon was added to 10 ml solution of ethanol with 5 mg of 4-(2-methyl-1-oxo-isoquinoline-6-yl)-1-(2-fluoropyridine-3-yl)-5-methyl-1H-[1,2,3]triazole, and hydrogen was added under 4 atm of hydrogen atomosphere. 8 hours later, the reaction solution was filtered, and after distilling out the solvents of the filtrate, the residues were separated and purified by preparative thin-layer chromatography (chloroform/methanol=10/1) to obtain 1 mg of the above compound as a white solid.

reactant | 4-(2-methyl-1-oxo-isoquinoline-6-yl)-1-(2-fluoropyridine-3-yl)-5-methyl-1H-[1,2,3]triazole | 5 mg | CN1C(C2=CC=C(C=C2C=C1)C=1N=NN(C1C)C=1C(=NC=CC1)F)=O | C18H14FN5O
reactant | hydrogen | [H][H] | H2
catalyst | palladium carbon | 20 mg | [C].[Pd]
solvent | ethanol | C(C)O | C2H6O
product | 2-methyl-1-oxo-3,4-dihydroisoquinoline-6-yl-1-(2-fluoropyridine-3-yl)-5-methyl-1H-[1,2,3]triazole | 1 mg | CN1C(C2=CC=C(C=C2CC1)C=1N=NN(C1C)C=1C(=NC=CC1)F)=O | C18H16FN5O
